US06933311B2
2,2,2-trichloro-N-isoquinolin-5-ylacetamide
A solution of 5-aminoisoquinoline (1.0 g, 6.9 mmol) in dichloromethane (40 mL) and Et3N (1 mL) at 5° C. was treated with trichloroacetyl chloride (1.38 g, 7.6 mmol) dropwise. The reaction mixture was stirred at ambient temperature for 14 hours, concentrated, diluted with ethyl acetate and washed with 1N HCl. The aqueous layer was treated with aqueous NaHCO3 and extracted with ethyl acetate. The organic layer the was washed with water and concentrated. The solid residue was suspended in ethyl acetate (5 mL) and filtered to obtain 1.3 g (65%) of the title compound as a tan solid. 1H NMR (300 MHz, d6-DMSO) δ 11.20 (broad s, 1H), 9.41, (s, 1H), 8.60 (d, 1H), 8.18 (m, 1H), 7.77 (m, 2H), 7.66 (d, 1H); MS (DCI/NH3) m/z 289 (M+H)+.

reactant | 5-aminoisoquinoline | 6.9 mmol, 1.0 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | trichloroacetyl chloride | 7.6 mmol, 1.38 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | Et3N | 1 mL | CCN(CC)CC | C6H15N
product | 2,2,2-trichloro-N-isoquinolin-5-ylacetamide | 1.3 g, 65% | ClC(C(=O)NC1=C2C=CN=CC2=CC=C1)(Cl)Cl | C11H7Cl3N2O
